US06743814B2
4.0 g of 2-(3,4,4-trifluoro-3-butenylthio)oxazole was added to 40 ml of DMF (dehydrated) to which a mixture of 10 ml of chloroform and 2.6 g of sulfuryl chloride was added dropwise at 50 in 1 hour. After the reaction mixture was stirred at 50° C. for 3 hours, a mixture of 5 ml of chloroform and 0.8 g of sulfuryl chloride was further added dropwise in 15 minutes. After stirring at 50° C. for 15 hours, the reaction mixture was cooled to room temperature, poured into 200 ml of ice water and extracted with 100 ml of hexane. The aqueous layer was neutralized with 1N aqueous solution of sodium hydroxide and further extracted with 100 ml of hexane. The extracted hexane layers were put together, washed with 200 ml of saturated common salt water and dried with magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by column chromatography (eluent: hexane:dichloromethane=1:1) to obtain 2.4 g of 5-chloro-2-(3,4,4-trifluoro-3-butenylthio)oxazole as colorless oil (yield 51.5%, n20D=1.4830).

reactant | 2-(3,4,4-trifluoro-3-butenylthio)oxazole | 4.0 g | FC(CCSC=1OC=CN1)=C(F)F | C7H6F3NOS
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 2.6 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 2.4 g, yield 51.5% | ClC1=CN=C(O1)SCCC(=C(F)F)F | C7H5ClF3NOS
